US08563547B2
(3) 3-(2-(4-(4-(trifluoromethoxy)phenoxy)piperidin-1-yl)ethoxy)propionyl chloride (II-4d)
3-(2-(4-(4-(trifluoromethoxy)phenoxy)piperidin-1-yl)ethoxy)propionic acid (377 mg, 1.0 mmol) was dissolved in thionyl chloride, raised the temperature to reflux for 3 h, spun dry, residuals were washed by an appropriate amount of ethyl ether, generated 395 mg target product, yield was 100%, directly put to the next reaction step.

reactant | 3-(2-(4-(4-(trifluoromethoxy)phenoxy)piperidin-1-yl)ethoxy)propionic acid | 1.0 mmol, 377 mg | FC(OC1=CC=C(OC2CCN(CC2)CCOCCC(=O)O)C=C1)(F)F | C17H22F3NO5
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 3-(2-(4-(4-(trifluoromethoxy)phenoxy)piperidin-1-yl)ethoxy)propionyl chloride | yield was 100% | FC(OC1=CC=C(OC2CCN(CC2)CCOCCC(=O)Cl)C=C1)(F)F | C17H21ClF3NO4
